US07855297B2
By the reaction and treatment in the same manner as in Example 271 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.83 g) and isobutyl bromide (0.326 mL) as starting materials, 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-{[1-(2-methylpropyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.16 g) was obtained. By the reaction and treatment of this compound in the same manner as in Example 19, 5-hydroxy-N-(6-isopropylpyridin-3-yl)-N-{[1-(2-methylpropyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.11 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.83 g | Cl.C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C
reactant | isobutyl bromide | 0.326 mL | C(C(C)C)Br | C4H9Br
product | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-{[1-(2-methylpropyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.16 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)CC(C)C)C=1C=NC(=CC1)C(C)C | C34H40N4O2
